US08623859B2
N-[4-(5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide
The title compound was prepared according to general procedure AG using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (55 mg, 0.15 mmol), EDCI (35 mg, 0.18 mmol), HOAt (25 mg, 0.18 mmol), DIPEA (0.156 mL, 0.89 mmol) and 1-[4-(5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-yl)phenyl]-N-methylmethanamine (43 mg, 0.13 mmol) in DCE (1 mL). The crude product was purified using prep method C.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.15 mmol, 55 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.18 mmol, 35 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAt | 0.18 mmol, 25 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 0.89 mmol, 0.156 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[4-(5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-yl)phenyl]-N-methylmethanamine | 0.13 mmol, 43 mg | CC1(CN=C(NC1)C1=CC=C(C=C1)CNC)C | C14H21N3
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | N-[4-(5,5-dimethyl-1,4,5,6-tetrahydropyrimidin-2-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide | CC1(CN=C(NC1)C1=CC=C(CN(C(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1)C | C30H38N4O5S
